Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization

 
History of Present Illness:
Per admitting HPI:

The patient is an ___ year old woman with past medical history of
HTN, HLD, T2DM, stage I breast cancer s/p lumpectomy who 
presents
with chest pain. She reports eating a large lunch on ___, and on
the way back in the car with her daughter had acute onset 
feeling
of "heavy lead" on her chest with radiation to the neck. She had
forgotten to take her BP medications this morning. She went to
the ___ where ECG showed LBBB which was reportedly new for
the patient. The pain persisted until she received NG SL, which
completely resolved the pain. An ECG after she was chest pain
free showed normal sinus rhythm without the LBBB. Since this 
time
she has not had more chest pain. She was started on IV heparin,
received 325mg ASA, and transferred to ___.

In the ___ ___, she was still chest pain free. Her ECG again
showed normal sinus rhythm. Her initial BP was 114/78, though it
rose during the ___ course to 202/137, down to 176/62 on 
transfer.
She received 1 dose of hydralazine. Cardiology consult
recommended IV heparin, aspirin, statin and admission for
possible cath. 

Of note, she had 1 other episode like this that occurred
recently. It happened at rest and lasted 1 minute with
spontaneous resolution. 

On the floor she remains chest pain free. 

 
Past Medical History:
1. CARDIAC RISK FACTORS
- Diabetes
- Hypertension
- Dyslipidemia
2. CARDIAC HISTORY
- CABG: None
- PERCUTANEOUS CORONARY INTERVENTIONS: None
- PACING/ICD: None
3. OTHER PAST MEDICAL HISTORY
- Glaucoma
- ?Hodgkin's lymphoma in patient's ___
- Depression
- Breast cancer Stage I
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.
 
Physical Exam:
========================
ADMISSION PHYSICAL EXAM
========================
VS: ___ 0342 Temp: 98.5 PO BP: 181/58 HR: 65 RR: 18 O2 sat:
100% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score: ___ 

Gen: elderly, calm, NAD
HEENT: OP clear, PERRL
CV: RRR, I/VI systolic ejection murmur best heard at ___
PULM: CTAB without wheezes or rales
ABD: soft, NT, ND
EXT: trace ___ edema to knees

========================
DISCHARGE PHYSICAL EXAM
========================
Vitals: ___ 0707 Temp: 97.8 PO BP: 170/79 R Lying HR: 62 
RR:
18 O2 sat: 96% O2 delivery: Ra FSBG: 161 
General:  Elderly woman sitting in a chair in no acute distress,
eating breakfast
HEENT:  MMM, EOMI. Atraumatic, normocephalic. 
Lungs: Mild bibasilar crackles. Normal work of breathing
CV:  Normal rate, regular rhythm. Mildly elevated JVP. No 
murmurs
___ admission note does note a soft systolic
murmur
Abdomen: Soft, ___. Normal bowel sounds. 
Ext:  No peripheral edema, pulses 2+ bilaterally.
Neuro: Alert & oriented x3.
 
Pertinent Results:
==================
ADMISSION LABS
==================
___ 03:00AM BLOOD ___ 
___ Plt ___
___ 03:00AM BLOOD ___ 
___ Im ___ 
___
___ 03:00AM BLOOD Plt ___
___ 03:00AM BLOOD ___ 
___
___ 03:00AM BLOOD ___

======================
PERTINENT INTERIM LABS
======================
___ 12:05AM BLOOD ___
___ 06:48AM BLOOD ___

===========
IMAGING
===========
EKG: Reviewed, NSR, poor R wave progression

CXR ___:
Deviation of the trachea to the right. Further evaluation may be
performed with chest CT.  Mild blunting of bilateral 
costophrenic
angles and mild interstitial opacities bilaterally.   

___ Cardiac Cath
Coronary DescriptionThe coronary circulation is right 
dominant.LM: The Left Main, arising from the left cusp, is a 
large caliber vessel. This vessel bifurcates into theLeft 
Anterior Descending and Left Circumflex systems.LAD: The Left 
Anterior Descending artery, which arises from the LM, is a large 
caliber vessel. There isan 80% stenosis in the proximal segment. 
There is an 80% ulcerated plaque in the proximal segment.The 
Diagonal, arising from the proximal segment, is a medium caliber 
vessel. There is a 60% stenosis inthe ostium and proximal 
segment.Cx: The Circumflex artery, which arises from the LM, is 
a large caliber vessel. There is a 70% stenosisin the proximal 
segment.The Obtuse Marginal, arising from the proximal segment, 
is a medium caliber vessel. There is severetortuosity beginning 
in the mid segment. There is a 70% stenosis in the ostium and 
proximal segment.RCA: The Right Coronary Artery, arising from 
the right cusp, is a large caliber vessel. There is a 
70%stenosis in the mid segment. There is a 50% stenosis in the 
distal segment. There is a 50% stenosis in thedistal segment.The 
Right Posterolateral Artery, arising from the distal segment, is 
a medium caliber vessel.The Right Posterior Descending Artery, 
arising from the distal segment, is a medium caliber 
vessel.There is a 60% stenosis in the proximal segment.

=============
MICROBIOLOGY
=============
- None

==============
DISCHARGE LABS
==============
___ 05:20AM BLOOD ___ 
___ Plt ___
___ 05:20AM BLOOD Plt ___
___ 07:00AM BLOOD ___ 
___
___ 07:00AM BLOOD ___ year old woman with past medical history of HTN, HLD, T2DM, 
stage I breast cancer s/p lumpectomy who presented with chest 
pain with new LBBB and positive biomarkers, found to have 3 
vessel CAD on cath, but deferred CABG and high risk PCI.

============
ACUTE ISSUES
============

# NSTEMI
Presented with new LBBB (initial ECG from ___) with 
anginal chest pain and positive troponin. LBBB and chest pain 
resolved after SL NG. Started on nitro drip for BP & CP 
management when transferred to ___. Troponin trended down from 
a peak of 0.1. TTE consistent w/ preserved EF and mild symmetric 
left ventricular hypertrophy. Pt was started on a heparin drip 
until cardiac catheterization which showed 3 vessel 
___ was deferred in lieu of pursuing CT surg 
eval for CABG. Surgeons spoke to patient
and her family but she declined surgery, wants to pursue 
medication optimization. ___ elect for repeat cath w/ goal of 
some intervention in the future. Started on Clopidogrel 75mg 
daily for chronic anticoagulation in the setting of known CAD. 
Continued Atorvastatin and ASA. HTN meds adjusted as below.

# HTN:
Missed home medications prior to admission. Remained very 
hypertensive during admission, >200 overnight. Made numerous 
changes to home meds in order to gain better control. She was 
always asymptomatic with episodes of hypertension. Ultimately 
discharged on on Carvedilol, Losartan, and Isosorbide 
mononitrate as below.

#Hyponatremia (resolved)
Hyponatremic during admission to 128, d/ced HCTZ and gave gentle 
fluid resuscitation, given poor oral intake. Resolved.

=============
CHRONIC ISSUES
=============

# Breast cancer:
- Continued on exemesane

# Depression:
- Continued paroxetine

# T2DM:
- Home metformin held. Pt maintained on SSI. Glucose levels 
remained stable ***. 

# Glaucoma:
- Continued lantanoprost, timolol, brimidine

===================
TRANSITIONAL ISSUES
===================
[ ] Please f/u w/ PCP and cardiologist about blood pressure 
control and medical optimization
[ ] Pt will need a CT scan to f/u tracheal deviation seen 
incidentally on ___

# CODE: Full (confirmed with daughter/HCP)
# CONTACT: HCP:
___ (Cell): ___ daughter, 
___ (home)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 500 mg PO BID 
2. Exemestane 25 mg PO DAILY 
3. ___ mg oral DAILY 
4. PARoxetine 20 mg PO DAILY 
5. Atenolol 25 mg PO DAILY 
6. Timolol Maleate 0.5% 1 DROP LEFT EYE BID 
7. Brimonidine Tartrate 0.15% Ophth. 1 DROP LEFT EYE Q8H 
8. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Carvedilol 12.5 mg PO BID  
4.  Clopidogrel 75 mg PO DAILY  
5.  Isosorbide Mononitrate (Extended Release) 90 mg PO QAM  
6.  Losartan Potassium 50 mg PO BID  
7.  Brimonidine Tartrate 0.15% Ophth. 1 DROP LEFT EYE Q8H  
8.  Exemestane 25 mg PO DAILY  
9.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
10.  MetFORMIN (Glucophage) 500 mg PO BID  
11.  PARoxetine 20 mg PO DAILY  
12.  Timolol Maleate 0.5% 1 DROP LEFT EYE BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
=================
PRIMARY DIAGNOSIS
=================
NSTEMI
Coronary Artery Disease

===================
SECONDARY DIAGNOSIS
===================
Hypertension
Type 2 diabetes mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
  
It was a pleasure taking care of you at the ___ 
___! 
 
WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted to the hospital because you had chest pain 
that was concerning for having a blocked artery in your heart.

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
-  You had a cardiac catheterization. This is a procedure done 
to look at the arteries around your heart. This showed that many 
of your arteries have blockages in them. However you decided 
that you did not want to undergo heart surgery. We adjusted your 
medicines to best protect your heart.

WHAT SHOULD I DO WHEN I GO HOME?  
- Make sure you attend your scheduled appointments with your 
cardiologist and primary care provider
- ___ take all your medications as prescribed

================================  
Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  

 
Followup Instructions:
___